US08445512B2
1.8 g (5.6 mmol) Cs2CO3 and 210 mg (0.2 mmol) Pd(PPh3)4 were added to a solution of 800 mg (1.9 mmol) 4-methyl-7-(trifluoromethyl)-2-(trifluoromethyl-sulfonyloxy)-quinoline-3-carboxylic acid ethyl ester and 320 mg (3.7 mmol) (E)-propene-1-yl-boronic acid in an ethanol/toluene mixture (1:9 vv, 20 ml) and the mixture was heated to 110° C. for 1 h. The mixture was thereafter concentrated in a vacuum and the residue was taken up with EtOAc (20 ml) and water (20 ml). The organic phase was separated, washed with water and brine, dried over Na2SO4 and concentrated in a vacuum. After CC (EA/hexane 1:9) of the residue, 450 mg (1.4 mmol, 75%) (E)-4-methyl-2-(prop-1-enyl)-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester was obtained.

reactant | Cs2CO3 | 5.6 mmol, 1.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methyl-7-(trifluoromethyl)-2-(trifluoromethyl-sulfonyloxy)-quinoline-3-carboxylic acid ethyl ester | 1.9 mmol, 800 mg | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C15H11F6NO5S
reactant | (E)-propene-1-yl-boronic acid | 3.7 mmol, 320 mg | C(=C\C)/B(O)O | C3H7BO2
reactant | ethanol toluene | 20 ml | C(C)O.C1(=CC=CC=C1)C
catalyst | Pd(PPh3)4 | 0.2 mmol, 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EA hexane | CC(OCC)=O.CCCCCC
product | (E)-4-methyl-2-(prop-1-enyl)-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester | 1.4 mmol, 450 mg, 75% | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)\C=C\C | C17H16F3NO2
